US07241887B2
8-(3-Hydroxy-phenyl)-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester
3-(3-Aza-bicyclo[3.2.1]oct-8-yl)-phenol as HCl salt (547 mg, 1.93 mmol) was stirred vigorously in 1N NaOH (10 mL), saturated aqueous Na2CO3 solution (20 mL) and CH2Cl2 (30 mL) then charged with benzyl chloroformate (5 mL, 35.0 mmol) slowly via syringe. After stirring overnight, the layers were separated and the product was extracted with CH2Cl2 (1×10 mL), washed with saturated aqueous NaHCO3 solution, dried through a cotton plug and concentrated to a brown liquid. Flash chromatography provided the desired product as a thick clear oil (420 mg, 65%). (TLC 30% EtOAc/hexanes Rf 0.34); 1H NMR (400 MHz, CDCl3) δ 7.33 (m, 5H), 7.11 (t, J=7.9 Hz, 1H), 6.73 (d, J=7.9 Hz, 1H), 6.71 (s, 1H), 6.66 (d, J=7.9 Hz, 1H), 5.14 (s, 2H), 4.05 (dd, J=12.2 Hz, 2.7 Hz, 1H), 3.96 (dd, J=12.2, 2.7 Hz, 1H), 3.09 (m, 2H), 2.85 (s, 1H), 2.50 (br s, 1H), 2.46 (br s, 1H), 1.64 (m, 2H), 1.48 (m, 2H).

reactant | 3-(3-Aza-bicyclo[3.2.1]oct-8-yl)-phenol | C12CNCC(CC1)C2C=2C=C(C=CC2)O | C13H17NO
reactant | HCl | 1.93 mmol, 547 mg | Cl | ClH
reactant | Na2CO3 | 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzyl chloroformate | 35.0 mmol, 5 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 8-(3-Hydroxy-phenyl)-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester | 420 mg, 65% | C(C1=CC=CC=C1)OC(=O)N1CC2CCC(C1)C2C2=CC(=CC=C2)O | C21H23NO3
